US09062055B2
Step 3. 1-[1-(3-Fluorophenyl)-3-methyl-1H-indol-2-yl]ethanone
To a mixture of 1-(3-fluorophenyl)-N-methoxy-N,3-dimethyl-1H-indole-2-carboxamide (0.27 g, 0.86 mmol) in tetrahydrofuran (5 mL) was added 3.0 M methylmagnesium bromide in ether (2.3 mL, 6.9 mmol). The reaction was stirred at room temperature overnight. The reaction was quenched with saturated NH4Cl solution and extracted with EtOAc. The combined organic layers were dried over MgSO4, concentrated, and purified on silica gel (eluting with 0-15% EtOAc/hexane) to give the desired product (0.165 g, 71%). LCMS calculated for C17H15FNO(M+H)+: m/z=268.1. Found: 268.0.

reactant | 1-(3-fluorophenyl)-N-methoxy-N,3-dimethyl-1H-indole-2-carboxamide | 0.86 mmol, 0.27 g | FC=1C=C(C=CC1)N1C(=C(C2=CC=CC=C12)C)C(=O)N(C)OC | C18H17FN2O2
reactant | methylmagnesium bromide | 3.0 M | C[Mg]Br
reactant | ether | 6.9 mmol, 2.3 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-[1-(3-Fluorophenyl)-3-methyl-1H-indol-2-yl]ethanone | 0.165 g, 71% | FC=1C=C(C=CC1)N1C(=C(C2=CC=CC=C12)C)C(C)=O | C17H14FNO
